US09085555B2
(1-Carbamoyl-2-methyl-1H-indol-3-yl)-acetic acid
was prepared in a similar manner as described in Scheme A8 Step B for (1-carbamoyl-1H-indol-3-yl)-acetic acid starting from (1-carbamoyl-2-methyl-1H-indol-3-yl)-acetic acid ethyl ester. The crude product (brownish solid) obtained after extractive work-up was used directly in the next step without purification. MS: 233 [M+H]+; tR (HPLC conditions b) 3.26 min.

reactant | (1-carbamoyl-1H-indol-3-yl)-acetic acid | C(N)(=O)N1C=C(C2=CC=CC=C12)CC(=O)O | C11H10N2O3
reactant | (1-carbamoyl-2-methyl-1H-indol-3-yl)-acetic acid ethyl ester | C(C)OC(CC1=C(N(C2=CC=CC=C12)C(N)=O)C)=O | C14H16N2O3
product | (1-Carbamoyl-2-methyl-1H-indol-3-yl)-acetic acid | C(N)(=O)N1C(=C(C2=CC=CC=C12)CC(=O)O)C | C12H12N2O3
